US04000275
6-(3,5-Dimethylbenzoyl)-3-methoxybenzimidazo[2,1-b]-quinazolin-12(6H)one is prepared with 3-methoxybenzimidazo[2,1-b]quinazolin-12(6H)one and 3,5-dimethylbenzoyl chloride.

reactant | 3-methoxybenzimidazo[2,1-b]quinazolin-12(6H)one | COC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=CC=C1)=O | C15H11N3O2
reactant | 3,5-dimethylbenzoyl chloride | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
product | 6-(3,5-Dimethylbenzoyl)-3-methoxybenzimidazo[2,1-b]-quinazolin-12(6H)one | CC=1C=C(C(=O)N2C3=C(C=CC=C3)N3C2=NC2=CC(=CC=C2C3=O)OC)C=C(C1)C | C24H19N3O3
